US04883789
Part F: Synthesis of (4-fluoro-3-phenoxyphenyl)methyl 2-(4-ethoxyphenyl)-2-methyl-2-silapropyl ether
To a solution of 1.0 g (0.0042 mole) of (4-fluoro3-phenoxyphenyl)methyl chloride in 5 mL of dry toluene was added 0.15 g (0.0063 mole) of sodium hydride. Dropwise a solution of 0.98 g (0.0047 mole) of 2-(4-ethoxyphenyl)-2-methyl-2-silapropanol in 5 mL of dry toluene was added to the reaction mixture. The reaction mixture was stirred at room temperature for one hour and then was heated at reflux for three hours. Aqueous 10% hydrochloric acid was added to the reaction mixture which was then extracted twice with diethyl ether. The combined extracts were dried, filtered through silica gel, and the solvent was evaporated under reduced pressure, leaving a residue. This residue was subjected to Kugelrohr distillation to remove remaining starting materials. The residue from this distillation was separated into two major fractions using a Chromatotron (eluant=ethyl acetate/ hexane (2:98). The smaller fraction, weighing 0.19 g, was determined to be (4-fluoro-3-phenoxyphenyl)methyl 2-(4-ethoxyphenyl)-2-methyl-2-silapropyl ether from its nmr spectrum.

reactant | (4-fluoro3-phenoxyphenyl)methyl chloride | 0.0042 mole, 1.0 g | FC1=C(C=C(C=C1)CCl)OC1=CC=CC=C1 | C13H10ClFO
reactant | sodium hydride | 0.0063 mole, 0.15 g | [H-].[Na+]
reactant | 2-(4-ethoxyphenyl)-2-methyl-2-silapropanol | 0.0047 mole, 0.98 g | C(C)OC1=CC=C(C=C1)[Si](CO)(C)C | C11H18O2Si
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (4-fluoro-3-phenoxyphenyl)methyl 2-(4-ethoxyphenyl)-2-methyl-2-silapropyl ether | C(C)OC1=CC=C(C=C1)[Si](COCC1=CC(=C(C=C1)F)OC1=CC=CC=C1)(C)C | C24H27FO3Si
